US05756532
2-Allyloxy-4-nitrophenol
To one liter of dimethyl sulfoxide was added 750 ml of 2N aqueous sodium hydroxide and the mixture was heated to 65° C. The pale yellow solid 3-allyloxy-4-methoxynitrobenzene prepared above was added in portions over a 30 minute period and then the temperature was raised to 95° C. and maintained for 3 hours, after which time the starting material had been consumed. The mixture was allowed to cool and poured into a mixture of 1 L ice and 1 L 2N HCl. 73 Grams of crude but homogeneous (by tic 1:1 CH2Cl2 /hexane) desired product was isolated as a light brown solid by filtration. This material was subsequently dissolved in 1:1 hexane/methylene chloride and filtered through silica gel to give 68 g of pale yellow solid, which, when recrystallized from ethyl/acetate/hexane, gave m.p. 61°-62° C. The aqueous mother liquors from the initial crystallization above were extracted with 2 L of ethyl acetate. This was dried over sodium sulfate, filtered and evaporated to a dark oil. Column chromatography on silica with 1:1 CH2Cl2 /hexane gave an additional 12 g of the title compound as a yellow solid. Elution with 2% MeOH in CHCl3 gave 12 g of a dark oil which slowly crystallized in vacuum. This proved to be the Claisen product, 3-allyl-4-nitrocatechol.

reactant | sodium hydroxide | 2N, 750 ml | [OH-].[Na+]
reactant | 3-allyloxy-4-methoxynitrobenzene | C(C=C)OC=1C=C(C=CC1OC)[N+](=O)[O-] | C10H11NO4
solvent | dimethyl sulfoxide | one liter | CS(=O)C | C2H6OS
product | 2-Allyloxy-4-nitrophenol | C(C=C)OC1=C(C=CC(=C1)[N+](=O)[O-])O | C9H9NO4
